US06528504B2
(R)-5,11-Dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride
3.0 ml of 2 M hydrochloric acid/ethyl ether was added to a solution of (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine (78 mg, 0.19 mmol) in dichloromethane, and they were stirred for 1 hour. The solvent was evaporated under reduced pressure to obtain the title compound in the form of a light yellow solid (73 mg, 86%).

reactant | hydrochloric acid ethyl ether | 2 M, 3.0 ml | Cl.C(C)OCC
reactant | (R)-5,11-dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine | 0.19 mmol, 78 mg | COC1=CC=C(C=C1)CCCN1C[C@@H](CC1)N1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | C27H30N2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-5,11-Dihydro-5-[1-[3-(4-methoxyphenyl)propyl]pyrrolidine-3-yl]dibenzo[b,e][1,4]oxazepine Hydrochloride | Cl.COC1=CC=C(C=C1)CCCN1C[C@@H](CC1)N1C2=C(OCC3=C1C=CC=C3)C=CC=C2 | InChI=1S/C27H30N2O2.ClH/c1-30-24-14-12-21(13-15-24)7-6-17-28-18-16-23(19-28)29-25-9-3-2-8-22(25)20-31-27-11-5-4-10-26(27)29;/h2-5,8-15,23H,6-7,16-20H2,1H3;1H/t23-;/m1./s1
